US05037990
a) N-Acetylphenethylamine
350 ml. (3.14 mol) Acetic anhydride are added dropwise within the course of 50 minutes to a solution of 376 ml. (3.0 mol) phenethylamine in 1.5 liters toluene, the temperature thereby increasing to 68° C. The reaction mixture is heated under reflux for 1 hour, the toluene is evaporated off in a high vacuum and the residue is distilled at 1.5 mm.Hg. Yield 475 g. (97% of theory); b.p. 162°-166° C./1.5 mm.Hg; m.p. 50°-52° C.

reactant | Acetic anhydride | 3.14 mol | C(C)(=O)OC(C)=O | C4H6O3
reactant | phenethylamine | 3.0 mol | C(CC1=CC=CC=C1)N | C8H11N
solvent | toluene | 1.5 liters | C1(=CC=CC=C1)C | C7H8
product | N-Acetylphenethylamine | C(C)(=O)NCCC1=CC=CC=C1 | C10H13NO
